US05194441
3-(Pyrid-3-yl)-4-(2-chlorophenyl)-but-1-ene-3,4-diol
A solution of 13 g (0.0531 mol) of 1-(pyrid-3-yl)-2-(2-chlorophenyl)-2-hydroxyethanone in tetrahydrofuran (THF) was added dropwise to a freshly prepared solution of 0.18 mol of vinylmagnesium bromide in 80 ml of THF at room temperature. Stirring was carried out for three hours at room temperature, after which the solution was hydrolyzed by adding ammonium chloride solution. The aqueous phase was extracted twice with ethyl acetate. The collected organic phases were dried over Na2SO4 and then filtered, and the filtrate was evaporated down. The crude product was stirred with methyl tert-butyl ether, filtered off under suction and dried to give a product of melting point 110°-112° C.

reactant | 1-(pyrid-3-yl)-2-(2-chlorophenyl)-2-hydroxyethanone | 0.0531 mol, 13 g | N1=CC(=CC=C1)C(C(O)C1=C(C=CC=C1)Cl)=O | C13H10ClNO2
reactant | vinylmagnesium bromide | 0.18 mol | C(=C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 80 ml | O1CCCC1 | C4H8O
product | 3-(Pyrid-3-yl)-4-(2-chlorophenyl)-but-1-ene-3,4-diol | N1=CC(=CC=C1)C(C=C)(C(O)C1=C(C=CC=C1)Cl)O | C15H14ClNO2
